US06156739
8-Hydroxy-2-(4'-hydroxyphenyl)quinazolin-4-[3 H]-one
8-Methoxy-2-(4'-methoxyphenyl)quinazolin-4-[3 H]-one (0.2 g, 0.71 mmol) was suspended in a 1.0 M solution of BBr3 in DCM (2.2 ml), to give a yellow suspension, which was gently refluxed for 48 hours. The solvent was directly distilled from the reaction vessel to leave a yellow/brown solid, which was hydrolysed with 10% aq. NaOH solution to give a bright yellow, clear solution. The solution was neutralised with 1.0 M aqueous HCl whereupon a cream precipitate formed, which was collected by filtration. The filtrate was extracted into EtOAc. The organic layers were combined, dried (MgSO4) and filtered. The solvent was removed under vacuum to leave a cream solid. Both products were combined (after comparison by TLC) and recrystallised from methanol (0.08 g, 0.33 mmol, 47%), m.p. 288-290° C.

reactant | 8-Methoxy-2-(4'-methoxyphenyl)quinazolin-4-[3 H]-one | 0.71 mmol, 0.2 g | COC=1C=CC=C2C(NC(=NC12)C1=CC=C(C=C1)OC)=O | C16H14N2O3
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 1.0 M | Cl | ClH
reactant | methanol | 0.33 mmol, 0.08 g | CO | CH4O
solvent | DCM | 2.2 ml | C(Cl)Cl | CH2Cl2
product | 8-Hydroxy-2-(4'-hydroxyphenyl)quinazolin-4-[3 H]-one | OC=1C=CC=C2C(NC(=NC12)C1=CC=C(C=C1)O)=O | C14H10N2O3
